* Netlist snapshot for record 20260916-125444-4d0cf7c -- exactly what was simulated.
* DUT: comparator-dr0001 (schematic), design/comparator.spice
* Testbench: sim/comparator-offset-mc/testbench/tb_offset_mc.spice
* ---------------- DUT NETLIST ----------------
* ============================================================================
* sg13g2-comparator -- DERIVED NETLIST.  DO NOT EDIT BY HAND.
* ============================================================================
*
* Generated from the xschem sources in design/ by:
*
*     python3 design/netlist.py
*
* The schematics are the source of record:
*
*   design/comparator.sch              the design -- a single-tail StrongARM
*                                      dynamic latch (spec/decision-records/
*                                      0001-comparator-topology.md), plus the
*                                      isolation inverters and NOR SR latch
*                                      that make its outputs HELD between
*                                      strobes as the interface contract
*                                      requires
*   design/comparator_dut.sch          contract wrapper: tail-bias reference
*                                      on the `ibias` pin + the core
*   design/comparator_dut_latch.sch    contract wrapper: the core with its
*                                      tail-bias node tied to vdd
*   design/comparator_dut_analog.sch   the LOOP-BROKEN reduced sub-model --
*                                      an offset/noise LOWER BOUND, not the
*                                      design's front end.  Read
*                                      design/README.md before quoting any
*                                      number measured against it.
*
* Interface contract: sim/dut/README.md.  Asserted at generation time by
* design/netlist.py (against sim/harness/dut.py's own REQUIRED_SUBCKTS) and
* again at load time by the harness.
*
* Parameters supplied by the harness, not by this file: dut_ib, dut_vcm,
* vdd_val, vdd_nom, temp_c (sim/harness/runner.py compose_deck).  This file
* deliberately contains no .include / .lib / .temp / .control / .endc / .end.
* ============================================================================

.subckt comparator vinp vinn clk vbias dout doutb vdd vss
*.iopin vinp
*.iopin vinn
*.iopin clk
*.iopin vbias
*.iopin dout
*.iopin doutb
*.iopin vdd
*.iopin vss
XMT tmid vbias vss vss sg13_lv_nmos w=40u l=0.5u ng=1 m=1
XMSW tail clk tmid vss sg13_lv_nmos w=40u l=0.13u ng=1 m=1
XM1 np vinp tail vss sg13_lv_nmos w=12u l=0.34u ng=1 m=1
XM2 nn vinn tail vss sg13_lv_nmos w=12u l=0.34u ng=1 m=1
XM3 ln lp np vss sg13_lv_nmos w=3u l=0.13u ng=1 m=1
XM4 lp ln nn vss sg13_lv_nmos w=3u l=0.13u ng=1 m=1
XM5 ln lp vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XM6 lp ln vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XM7 ln clk vdd vdd sg13_lv_pmos w=6u l=0.13u ng=1 m=1
XM8 lp clk vdd vdd sg13_lv_pmos w=6u l=0.13u ng=1 m=1
XM9 np clk vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XM10 nn clk vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XMIAP lnb ln vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XMIAN lnb ln vss vss sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
XMIBP lpb lp vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XMIBN lpb lp vss vss sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
XMNAP1 na lnb vdd vdd sg13_lv_pmos w=4u l=0.13u ng=1 m=1
XMNAP2 doutb dout na vdd sg13_lv_pmos w=4u l=0.13u ng=1 m=1
XMNAN1 doutb lnb vss vss sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
XMNAN2 doutb dout vss vss sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
XMNBP1 nb lpb vdd vdd sg13_lv_pmos w=4u l=0.13u ng=1 m=1
XMNBP2 dout doutb nb vdd sg13_lv_pmos w=4u l=0.13u ng=1 m=1
XMNBN1 dout lpb vss vss sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
XMNBN2 dout doutb vss vss sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
.ends

.subckt comparator_dut_analog vinp vinn ibias aop aon vdd vss
*.iopin vinp
*.iopin vinn
*.iopin ibias
*.iopin aop
*.iopin aon
*.iopin vdd
*.iopin vss
XMBA ibias ibias vss vss sg13_lv_nmos w=10u l=0.5u ng=1 m=1
XMTA tmid ibias vss vss sg13_lv_nmos w=40u l=0.5u ng=1 m=1
XMSWA tail vdd tmid vss sg13_lv_nmos w=40u l=0.13u ng=1 m=1
XM1A aon vinp tail vss sg13_lv_nmos w=12u l=0.34u ng=1 m=1
XM2A aop vinn tail vss sg13_lv_nmos w=12u l=0.34u ng=1 m=1
XM5A aon aon vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
XM6A aop aop vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
.ends

.subckt comparator_dut_latch inp inn clk dout doutb vdd vss
*.iopin inp
*.iopin inn
*.iopin clk
*.iopin dout
*.iopin doutb
*.iopin vdd
*.iopin vss
x1 inp inn clk vdd dout doutb vdd vss comparator
.ends

.subckt comparator_dut vinp vinn clk ibias dout doutb vdd vss
*.iopin vinp
*.iopin vinn
*.iopin clk
*.iopin ibias
*.iopin dout
*.iopin doutb
*.iopin vdd
*.iopin vss
XMB ibias ibias vss vss sg13_lv_nmos w=10u l=0.5u ng=1 m=1
x1 vinp vinn clk ibias dout doutb vdd vss comparator
.ends

* ---------------- TESTBENCH FRAGMENT ----------------
* tb_offset_mc -- Monte-Carlo input-referred offset of the comparator front
* end, and the part of that offset that MOVES with input common mode.
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* section, .temp, the DUT netlist, the .control block and .end
* (sim/harness/README.md). Parameters from the harness: vdd_val, vdd_nom,
* temp_c, dut_ib, dut_vcm.
*
* METHODOLOGY PORTED FROM gf180-comparator/sim/comparator-offset-mc/ (itself
* ported from gf180-sar-adc) -- see this experiment's README.md for the full
* transfer/non-transfer list. In one line: N draws through a
* `dowhile`/`reset` loop, each draw re-evaluating the agauss expressions
* inside SG13G2's mismatch-enabled LV MOS model, with the gain of the SAME
* draw measured by a second DC point so that offset = -dv0/A_v is a real
* offset rather than a difference of two independent populations.
*
* STANDALONE STIMULUS. gf180-comparator's version of this bench sweeps a
* common-mode band about its own DUT's dut_vcm. There is no CDAC here and no
* SAR sequencer either: the stimulus is an ideal differential DC source
* riding on an ideal common-mode source, and the common-mode band swept is a
* stated +/-50 mV about the DUT's own specified `dut_vcm` -- a property of
* the comparator, not of anything driving it.
*
* MISMATCH IS A CORNER SELECTION HERE, NOT A FRAGMENT PARAMETER. Unlike
* gf180mcu (a global `sw_stat_mismatch` switch that a fragment can flip, and
* MUST flip after the model include or design.ngspice's default silently
* wins), SG13G2 has no such switch: local mismatch is baked into which
* `cornerMOSlv.lib` `.LIB` section this bench's tb.json names in its
* `corners` field (`mos_mismatch` -- the `mos_{tt,ff,ss,fs,sf}_mismatch`
* set, see sim/harness/corners.py). This fragment therefore sets nothing
* mismatch-related at all; the corner IS the switch. `mm_ok` defaults to 1
* inside the PDK's own sg13_lv_nmos/sg13_lv_pmos subckts, confirmed during
* issue #6 (sim/device-mismatch-confirm/README.md).
*
* NO RESISTOR NULL CONTROL. gf180-comparator's twin of this bench also
* carries a null control proving gf180mcu's resistor model has its local-
* mismatch coefficient hard-set to zero. SG13G2's placeholder front end
* loads with an IDEAL resistor (sim/dut/placeholder_comparator.spice's
* header explains why), so there is no PDK resistor mismatch model in this
* circuit to null-control at all -- not because SG13G2's resistors lack
* real mismatch (they do NOT: rsil/rhigh/rppd's own model files carry
* genuine per-instance agauss() terms, unlike gf180mcu's), but because this
* placeholder does not instantiate one. See sim/harness/corners.py's module
* docstring "extension point" for what happens when a real design does.

.param c_route=10f
.param vcm_step=50m

* ---- supply ----------------------------------------------------------
vsup vdd 0 dc {vdd_val}

* ---- ideal standalone stimulus ---------------------------------------
* cm  = dut_vcm + vcmd, so sweeping `vcmd` moves the input common mode
* without the manifest having to know what dut_vcm is.
vcmb cmb 0 dc {dut_vcm}
vcmd cm  cmb dc 0
vd   vd 0 dc 0
Eap  ap cm vd 0 0.5
Ean  an cm vd 0 -0.5

* ---- device under test (front end; see sim/dut/README.md) -------------
ib   vdd ibn dc {dut_ib}
Xa   ap an ibn aop aon vdd 0 comparator_dut_analog

* Routing allowance on each front-end output. Deliberately SMALL: loading
* this node harder would only lower the bandwidth, which does not affect a
* DC offset measurement, but keeping the same allowance as the noise bench
* means the two benches see the same circuit.
Cwp aop 0 {c_route}
Cwn aon 0 {c_route}
